US07018988B2
(2S,4EZ)-4-{[(3,4-dichlorobenzyl)oxy]imino}-1-(diphenylacetyl)-N-(2-thienylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 2-thienylmethylamine the title compound was obtained in 51% purity by LC/MS. MS(ESI+): m/z=592.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 2-thienylmethylamine | S1C(=CC=C1)CN | C5H7NS
product | (2S,4EZ)-4-{[(3,4-dichlorobenzyl)oxy]imino}-1-(diphenylacetyl)-N-(2-thienylmethyl)-2-pyrrolidinecarboxamide | ClC=1C=C(CON=C2C[C@H](N(C2)C(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)NCC=2SC=CC2)C=CC1Cl | C31H27Cl2N3O3S
